US07491716B2
6-Methanesulfonyl-5.6-dihydro-[1,4]diazepino[6,7,1-hi]indole
Add triethylamine (3.19 g, 31.56 mmol) to a solution of 2-[(1H-Indol-7-ylmethyl)amino]-ethan-1-ol (2.0 g, 10.52 mmol) in tetrahydrofuran (50 ml) at 0° C. Slowly add 1.75 mL (22.09 mMol) methanesulfonyl chloride and allow the reaction to warm to room temperature. Quench the reaction with saturated aqueous sodium bicarbonate and extract into ethyl acetate. Combine the organic layers, wash sequentially with saturated aqueous ammonium chloride, water, and saturated aqueous sodium chloride, dry over magnesium sulfate, and concentrate under reduced pressure. Add sodium hydride (0.8416 g, 21.04 mmol, 60% dispersion in mineral oil) to the resulting oil in dimethylformamide (20 ml). Quench the reaction with saturated aqueous sodium bicarbonate, concentrate to about 10 ml and extract into ethyl acetate. Combine the organic layers, wash sequentially with saturated ammonium chloride, water, and saturated aqueous sodium chloride, dry over magnesium sulfate, and concentrate under reduced pressure. Purification by flash chromatography, eluting with ethyl acetate:hexane gradient gives the title compound as an off-white solid.

reactant | triethylamine | 31.56 mmol, 3.19 g | C(C)N(CC)CC | C6H15N
reactant | 2-[(1H-Indol-7-ylmethyl)amino]-ethan-1-ol | 10.52 mmol, 2.0 g | N1C=CC2=CC=CC(=C12)CNCCO | C11H14N2O
reactant | methanesulfonyl chloride | 22.09 mMol, 1.75 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydride | 21.04 mmol, 0.8416 g | [H-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 6-Methanesulfonyl-5.6-dihydro-[1,4]diazepino[6,7,1-hi]indole | CS(=O)(=O)C1C=C2C=CN3C2=C(C1)C=NC=C3 | C12H12N2O2S
